US04581463
Example VI was repeated except that the 2-chloronitrobenzene/2-chloropropionate/DMF solution was added over a period of 30 minutes during which the temperature of the reaction mixture was maintained at 25°-30° C. by intermittent cooling with an ice/water bath, and stirring of the reaction mixture was continued for 30 minutes after completion of this dropwise addition. The reaction mixture was then poured into 150 ml of 1N HCl and extracted with four 150 ml portions of diethyl ether. The ether layers were combined, dried over MgSO4, and concentrated to give an oil which was adsorbed on 15 g of silica gel (230-400 mesh). This was loaded on a column of 200 g of silica gel which was eluted with 30% dichloromethane/70% petroleum ether under nitrogen pressure to give 0.65 g of unreacted 2-chloronitrobenzene and 8.4 g of methyl 2-(3-chloro-4-nitrobenzene)propionate--a yield of about 68%.

reactant | 2-chloronitrobenzene 2-chloropropionate DMF | ClC1=C(C=CC=C1)[N+](=O)[O-].ClC(C(=O)[O-])C.CN(C)C=O
solvent | HCl | 1N, 150 ml | Cl | ClH
product | 2-chloronitrobenzene | 0.65 g, yield of about 68% | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
